US05968945
3-Phthalimido-3-(3,4-dimethoxyphenyl)propionitrile
To an ice bath cooled stirred suspension of 3-phthalimido-3-(3,4-dimethoxyphenyl)propionamide (1.77 g, 5.00 mmol) and 4-methylmorpholine (1.3 mL, 12 mmol) in dimethylformamide (17 mL) under nitrogen, was added thionyl chloride (0.7 mL, 9.6 mmol) dropwise via a syringe. There was a slight exotherm and after 30 minutes, the cooling bath was removed and the reaction nlixture was stirred for 2 hours at room temperature. The reaction mixture was poured into a mixture of sodium bicarbonate (17 g) and 75 mL of ice water and stirred until the ice had melted. The slurry was filtered and the solid was washed with copious amounts of water. The wet solid was dissolved in methylene chloride (50 mL) and the organic layer was separated, dried over sodium sulfate, and concentrated in vacuo to afford an orange solid. The solid was purified by flash column chromatography (silica gel, 5/95 ethyl acetate/methylene chloride, 50 mm id column) to afford 1.32 g (79%) of the product as a white solid: 1H NMR (CDCl3) δ 7.9-7.6 (m, 4H), 7.10 (m, 2H), 6.83 (m, 1 H), 5.64 (dd, J=6.5, 10.2 Hz, 1H), 3.88 (s, 3H), 3.85 (s, 3H), 3.82 (dd, 1H), 3.30 (dd, J=6.5, 16.8 Hz, 1 H); 13C NMR (CDCl3) δ 167.7, 149.5, 149.2, 134.4, 131.5, 129.1, 123.6, 120.1, 116.9, 111.1, 110.7, 56.0, 55.9, 51.1, 21.1. Anal. Calcd for C19H16N2O4 0.18H2O. Theoretical: C, 76.2. H, 4.85; N, 8.25. Found: C, 67.23; H, 4.79; N, 8.27.

reactant | 3-phthalimido-3-(3,4-dimethoxyphenyl)propionamide | 5.00 mmol, 1.77 g | C1(C=2C(C(N1C(CC(=O)N)C1=CC(=C(C=C1)OC)OC)=O)=CC=CC2)=O | C19H18N2O5
reactant | 4-methylmorpholine | 12 mmol, 1.3 mL | CN1CCOCC1 | C5H11NO
reactant | thionyl chloride | 9.6 mmol, 0.7 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 17 mL | CN(C=O)C | C3H7NO
product | 3-Phthalimido-3-(3,4-dimethoxyphenyl)propionitrile | 1.32 g, 79% | C1(C=2C(C(N1C(CC#N)C1=CC(=C(C=C1)OC)OC)=O)=CC=CC2)=O | C19H16N2O4
